* Problem 3 - Diode simulation

*Include diode model
.include ../ciceda/models/ptm_diode_130.spi

.option TNOM=27 GMIN=1e-20

VDD VDD 0 dc 5
D1 0 VDD np_sub

.op
